US07960369B2
3-(3-methylphenoxy)benzaldehyde
A mixture of 3-bromobenzaldehyde (7.01 g, 37.9 mmol), m-cresol (4.51 g, 41.7 mmol), copper oxide (II) (4.53 g, 56.9 mmol), potassium carbonate (7.86 g, 56.9 mmol), pyridine (50 mL) and quinoline (25 mL) was stirred under a nitrogen atmosphere at 170° C. for 24 hrs. The reaction mixture was cooled and pyridine was evaporated under reduced pressure. Ethyl acetate was added to the residue, the insoluble material was filtered off, and the filtrate was washed with 1 M hydrochloric acid and saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography (hexane-10% ethyl acetate/hexane) to give the title compound (5.80 g, 72%) as a pale-brown oil.

reactant | 3-bromobenzaldehyde | 37.9 mmol, 7.01 g | BrC=1C=C(C=O)C=CC1 | C7H5BrO
reactant | m-cresol | 41.7 mmol, 4.51 g | C1=C(C=CC=C1O)C | C7H8O
reactant | potassium carbonate | 56.9 mmol, 7.86 g | C([O-])([O-])=O.[K+].[K+]
reactant | quinoline | 25 mL | N1=CC=CC2=CC=CC=C12 | C9H7N
catalyst | copper oxide | 56.9 mmol, 4.53 g | [Cu]=O
solvent | pyridine | 50 mL | N1=CC=CC=C1 | C5H5N
product | 3-(3-methylphenoxy)benzaldehyde | 5.80 g, 72% | CC=1C=C(OC=2C=C(C=O)C=CC2)C=CC1 | C14H12O2
